US08349847B2
Preparation of 3,4-bis-(2-methoxy-ethoxy)-benzaldehyde
80.0 g (0.57 mol) of 3,4-dihydroxy benzaldehyde and 800.0 ml of acetone were charged into 2.0 L4 necked round bottom flask, connect to a mechanical stirrer, thermo meter socket and condenser at 25-30° C. Reaction mass was stirred for 20 min. 324.0 g (1.74 mol) of 1-iodo-2-methoxy-ethane and 240.0 g (1.70 mol) of potassium carbonate were charged. Reaction mass was heated to reflux. Reaction mass temperature was maintained at reflux for 6 hours. Reaction mass temperature was cooled to 25-30° C. and inorganic solid was filtered. Acetone was completely distilled under vacuum at below 60° C. Remaining mass was diluted with 400.0 ml of DM water. Compound was extracted with 400.0 ml of ethyl acetate and organic layer was dried with sodiumsulphate. Ethyl acetate was completely distilled under vacuum and finally applied high vacuum at below 60° C. 69.20 g of crude product (Oil) was obtained (yield: 47.0% by theory).

reactant | 3,4-dihydroxy benzaldehyde | 0.57 mol, 80.0 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | 1-iodo-2-methoxy-ethane | 1.74 mol, 324.0 g | ICCOC | C3H7IO
reactant | potassium carbonate | 1.70 mol, 240.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 800.0 ml | CC(=O)C | C3H6O
product | 3,4-bis-(2-methoxy-ethoxy)-benzaldehyde | 69.20 g, yield: 47.0% | COCCOC=1C=C(C=O)C=CC1OCCOC | C13H18O5
